US06552013B1
Synthesis of 2-(3,5-difluorophenyl)-1,2-epoxyethane
Following General Procedure EC and using 3,5-difluorobenzaldehyde (Aldrich), the title compound was isolated after flash chromatography with 20:1 pentane/diethylether.

reactant | 3,5-difluorobenzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
reactant | pentane diethylether | CCCCC.C(C)OCC
product | 2-(3,5-difluorophenyl)-1,2-epoxyethane | FC=1C=C(C=C(C1)F)C1CO1 | C8H6F2O
